US04460782
Preparation of 2-acetoxysuccinic acid N-(3,5-dichlorophenyl) imide
158 g (1 mole) of 2-acetoxysuccinic acid anhydride and 162 g (1 mole) of 3,5-dichloroaniline are heated under reflux for three hours, in 1 liter of xylene. The resulting water is azeotropically separated off by means of a water separator. The xylene is then distilled off and the crude product is recrystallized from ethyl acetate. The yield of end product is 70.3% of the theoretical yield.

reactant | 2-acetoxysuccinic acid anhydride | 1 mole, 158 g | C(C)(=O)OC1C(=O)OC(C1)=O | C6H6O5
reactant | 3,5-dichloroaniline | 1 mole, 162 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
solvent | xylene | 1 liter | C=1(C(=CC=CC1)C)C | C8H10
product | 2-acetoxysuccinic acid N-(3,5-dichlorophenyl) imide | ClC=1C=C(C=C(C1)Cl)N=C(C(CC(=O)O)OC(C)=O)O | C12H11Cl2NO5
